US08304419B2
N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-chloro-2-methyl-1H-imidazole-5-carboxamide
EDC (0.060 g, 0.311 mmol) and HOBT (0.042 g, 0.311 mmol) were added to a solution of 3-{[3-(aminomethyl)-6-bromo-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.111 g, 0.311 mmol) and 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid (0.050 g, 0.311 mmol) in DMF (2 mL). The mixture was stirred at RT overnight. The reaction mixture was extracted with EtOAc and saturated sodium bicarbonate and the organic layer was dried over sodium sulfate and concentrated. Rerverse phase HPLC (acetonitrile:water with 0.1% formic acid) gave the title compound (0.019 g, 12%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.86 (br. s., 1H), 8.17 (br. s., 1H), 7.77-7.88 (m, 1H), 7.57-7.66 (m, 1H), 7.46-7.55 (m, 1H), 7.44 (br. s., 1H), 7.22-7.35 (m, 1H), 4.37-4.70 (m, 2H), 2.28 (s, 3H). LCMS: m/z 497, 499.

reactant | EDC | 0.311 mmol, 0.060 g
reactant | HOBT | 0.311 mmol, 0.042 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-{[3-(aminomethyl)-6-bromo-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.311 mmol, 0.111 g | NCC=1C(=C(C(=CC1)Br)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9BrClFN2O
reactant | 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid | 0.311 mmol, 0.050 g | ClC=1N=C(NC1C(=O)O)C | C5H5ClN2O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-chloro-2-methyl-1H-imidazole-5-carboxamide | 0.019 g, 12% | BrC1=C(C(=C(C=C1)CNC(=O)C1=C(N=C(N1)C)Cl)F)OC1=CC(=CC(=C1)C#N)Cl | C19H12BrCl2FN4O2
